US05703240
1-(4-Benzyloxy-phenyl)-5-cyclopropyl-1H-tetrazole
Trifluoromethane sulfonic anhydride (9.42 ml) was added dropwise over 10 min to a solution of cyclopropanecarboxylic acid(4-benzyloxy-phenyl)-amide (15 g) and sodium azide (3.64 g) in acetonitrile (250 ml) at 0°. The reaction mixture was stirred at room temperature under nitrogen for 16 h. 10% Aqueous sodium hydrogen carbonate (80 ml) was added and the organic layer was separated. The aqueous layer was further extracted with ethyl acetate (2×100 ml). The combined organic pads were dried over anhydrous sodium sulphate and concentrated in vacuo to give a brown oil. Purification by chromatography with ethyl acetate:isohexane (1:1) as eluant afforded the title compound (2.4 g) as a yellow solid, m.p. 118°.

reactant | Trifluoromethane sulfonic anhydride | 9.42 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | cyclopropanecarboxylic acid(4-benzyloxy-phenyl)-amide | 15 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(=O)C1CC1 | C17H17NO2
reactant | sodium azide | 3.64 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium hydrogen carbonate | 80 ml | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 1-(4-Benzyloxy-phenyl)-5-cyclopropyl-1H-tetrazole | 2.4 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1N=NN=C1C1CC1 | C17H16N4O
